US07498337B2
tert-butyl methyl{[1-(pyridin-3-ylsulfonyl)-5-(3-thienyl)-1H-pyrrol-3-yl]methyl}carbamate
Under an argon atmosphere, a suspension of tert-butyl {[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (232 mg), 3-thienylboronic acid (138 mg), tetrakis(triphenylphosphine)palladium (31.3 mg) and sodium carbonate (175 mg) in 1,2-dimethoxyethane (10 mL) and water (5 mL) was stirred at 105° C. for 1 hr. The reaction mixture was allowed to cool to room temperature, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=1:1) to give the title compound as a pale-yellow oil (yield 189 mg, 81%).

reactant | tert-butyl {[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 232 mg | BrC1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CN(C(OC(C)(C)C)=O)C | C16H20BrN3O4S
reactant | 3-thienylboronic acid | 138 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 175 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 31.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl methyl{[1-(pyridin-3-ylsulfonyl)-5-(3-thienyl)-1H-pyrrol-3-yl]methyl}carbamate | yield 189 mg, 81% | CN(C(OC(C)(C)C)=O)CC1=CN(C(=C1)C1=CSC=C1)S(=O)(=O)C=1C=NC=CC1 | C20H23N3O4S2
